US04840949
A mixture of a sodium ethylate solution prepared from 6.76 g of metallic sodium and 290 ml of anhydrous ethanol, 35 g of 2-(3-methyl-xanthine-7-yl)-acetamidoxime and 43.0 g of ethyl acetate is heated to boiling under stirring for 4 hours. The hot reaction mixture is filtered, the filtrate is evaporated in vacuo and the residue is dissolved in 200 ml of water. The pH of the solution is adjusted to 7 by adding 10% hydrochloric acid, the precipitate is filtered by suction and crystallized twice from water. Thus, 18.0 g of 3,7-dihydro-3-methyl-7-([5-methyl-1,2,4-oxadiazole-3-yl]-methyl)-1H-purine-2,6-dione are obtained, m.p.: 262°-264° C.

reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 6.76 g | [Na] | Na
reactant | ethanol | 290 ml | C(C)O | C2H6O
reactant | 2-(3-methyl-xanthine-7-yl)-acetamidoxime | 35 g | CN1C(NC(C=2N(C=NC12)CC(N)=NO)=O)=O | C8H10N6O3
solvent | ethyl acetate | 43.0 g | C(C)(=O)OCC | C4H8O2
product | 3,7-dihydro-3-methyl-7-([5-methyl-1,2,4-oxadiazole-3-yl]-methyl)-1H-purine-2,6-dione | 18.0 g | CN1C(NC(C=2N(C=NC12)CC1=NOC(=N1)C)=O)=O | C10H10N6O3
